US09024027B2
Step 1: Preparation of methyl 2-(4-nitro-1H-indol-1-yl)acetate (78)
To a solution of 4-nitro-1H-indole (500 mg, 3.08 mmol) in DMF (10 ml), K2CO3 (511 mg, 3.70 mmol) and methyl 2-bromoacetate (343 μl, 3.70 mmol) were added, and the mixture was stirred at 100° C. under MW irradiation for 30 minutes. The insoluble inorganic salts was filtered off, and the solvent was evaporated, recovering crude desired methyl 2-(4-nitro-1H-indol-1-yl)acetate which was used in the next step without further purification (810 mg). MS/ESI+ 235.1 [MH]+.

reactant | 4-nitro-1H-indole | 3.08 mmol, 500 mg | [N+](=O)([O-])C1=C2C=CNC2=CC=C1 | C8H6N2O2
reactant | K2CO3 | 3.70 mmol, 511 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | methyl 2-bromoacetate | 3.70 mmol, 343 μl | BrCC(=O)OC | C3H5BrO2
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | methyl 2-(4-nitro-1H-indol-1-yl)acetate | [N+](=O)([O-])C1=C2C=CN(C2=CC=C1)CC(=O)OC | C11H10N2O4
